US04999356
To a stirred solution of 50.0 g of phenylhydrazine in 280 ml of dry pyridine, cooled to about 5° was added, dropwise, 80.0 g of o-fluorobenzoyl chloride. After coming to ambient temperature, the reaction mixture was stirred for about 2 hours, and then poured into water. The resultant precipitate was recrystallized from toluene to yield 82 g (77.5%) of 2-fluorobenzoic acid, 2-phenylhydrazide.

reactant | phenylhydrazine | 50.0 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | o-fluorobenzoyl chloride | 80.0 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | water | O | H2O
solvent | pyridine | 280 ml | N1=CC=CC=C1 | C5H5N
product | 2-fluorobenzoic acid, 2-phenylhydrazide | 82 g, 77.5% | C1(=CC=CC=C1)NNC(C1=C(C=CC=C1)F)=O | C13H11FN2O
